US06441017B1
Step A: 3-[1-(4-Cyano-3-fluorobenzyl)-1H-imidazol-5-yl]-N-methoxymethylpropionamide
A mixture of lithium 3-[1-(4-cyano-3-fluorobenzyl)-1H-imidazol-5-yl]propionate, as described in Example 34, Step E, (500 mg, 1.79 mmol), N,O-dimethylhydroxylamine hydrochloride (874 mg, 8.96 mmol), HOBT (270 mg, 2.00 mmol), EDC (418 mg, 2.18 mmol), and N,N-diisopropylethylamine (1.87 mL, 10.74 mmol) was stirred in DMF (5 mL) at ambient temperature for 18 hours. EtOAc (50 mL) was added, the mixture was filtered, and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with a gradient of CHCL3—1% MeOH—0.1% NH4OH to CHCl3—4% MeOH—0.4% NH4OH to yield the titled product.

reactant | lithium 3-[1-(4-cyano-3-fluorobenzyl)-1H-imidazol-5-yl]propionate | C(#N)C1=C(C=C(CN2C=NC=C2CCC(=O)[O-])C=C1)F.[Li+]
reactant | N,O-dimethylhydroxylamine hydrochloride | 1.79 mmol, 500 mg | Cl.CNOC
reactant | HOBT | 2.00 mmol, 270 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 2.18 mmol, 418 mg
reactant | N,N-diisopropylethylamine | 10.74 mmol, 1.87 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-[1-(4-Cyano-3-fluorobenzyl)-1H-imidazol-5-yl]-N-methoxymethylpropionamide | C(#N)C1=C(C=C(CN2C=NC=C2CCC(=O)NCOC)C=C1)F | C16H17FN4O2
